US09085583B2
Synthesis of (±)-1-(1-bromoethyl)-3-methylbenzene
Phosphorus tribromide (4.28 g, 15.9 mmol) was added drop-wise to a stirred neat solution of 1-(m-tolyl)ethanol (0.9 g, 6.6 mmol) at 0° C. After being stirred to room temperature over 12 h, the reaction was carefully quenched with sat'd saturated aqueous NaHCO3 solution and the mixture was extracted with EtOAc. The organic extract was washed with water, dried with MgSO4, and conc. in vacuo to afford the title compound (1.2 g, 91%) as a colorless oil, that was used directly in the next step without further purification. LCMS 200 (M+H+).

reactant | Phosphorus tribromide | 15.9 mmol, 4.28 g | P(Br)(Br)Br | Br3P
reactant | 1-(m-tolyl)ethanol | 6.6 mmol, 0.9 g | C1(=CC(=CC=C1)C(C)O)C | C9H12O
product | (±)-1-(1-bromoethyl)-3-methylbenzene | 1.2 g, 91% | BrC(C)C1=CC(=CC=C1)C | C9H11Br
